US06261738B1
10.1: 2,2,2-Trifluoro-1-(2,4-dimethylphenyl)-ethanone
30.4 g (0.286 mol) of m-xylene and 34.9 g (0.286 mol) of 4-dimethylaminopyridine are mixed in 400 ml of CH2Cl2 and cooled by ice bath. To the solution are added 87.6 g (0.657 mol) of AlCl3, followed by dropwise addition of 60 g (0.286 mol) of trifluoroacetic anhydride. The reaction mixture is stirred at room temperature overnight, poured into ice wter, and extracted with CH2Cl2. The organic phase is washed with water, NaHCO3 aq, and brine, dried over MgSO4, and concentrated. The residue is distilled at 100° C./15 mmHg, yielding 12.6 g of the crude product as colorless liquid. This crude product is used in the next reaction step without further purification.

reactant | m-xylene | 0.286 mol, 30.4 g | C1(=CC(=CC=C1)C)C | C8H10
reactant | AlCl3 | 0.657 mol, 87.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trifluoroacetic anhydride | 0.286 mol, 60 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-dimethylaminopyridine | 0.286 mol, 34.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(2,4-dimethylphenyl)-ethanone | 12.6 g | FC(C(=O)C1=C(C=C(C=C1)C)C)(F)F | C10H9F3O
